US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl isobutyrate
To a mixture of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.5 g, 1.02 mmol) and potassium hydroxide (115 mg, 2.04 mmol) in anhydrous DMF (4 mL) was added a solution of chloromethyl isobutyrate (37 mg, 0.25 mmol) in anhydrous DMF (1 mL) over 30 min at 10° C. The reaction was stirred at 10° C. for 3 h, then diluted with EtOAc (40 mL) and filtered. The filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=5/1 to 4/1) to afford the title compound as a white solid (0.39 g, 63.3%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 1.02 mmol, 0.5 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | potassium hydroxide | 2.04 mmol, 115 mg | [OH-].[K+]
reactant | chloromethyl isobutyrate | 0.25 mmol, 37 mg | C(C(C)C)(=O)OCCl | C5H9ClO2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl isobutyrate | 0.39 g, 63.3% | C(C(C)C)(=O)OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C29H28ClF2N3O5S
